US07858630B2
Step 5: Trans-(3-Hydroxymethyl-cyclobutyl)-acetic acid methyl ester
Prepared from trans-(3-benzyloxymethyl-cyclobutyl)-acetic acid methyl ester (980 mg, 3.95 mmol) by hydrogenation 16 hours at room temperature using Pd/C (10%) (420 mg) in ethylacetate (20 ml).

reactant | trans-(3-benzyloxymethyl-cyclobutyl)-acetic acid methyl ester | 3.95 mmol, 980 mg | COC(C[C@@H]1C[C@H](C1)COCC1=CC=CC=C1)=O | C15H20O3
solvent | ethylacetate | 20 ml | C(C)OC(C)=O | C4H8O2
catalyst | Pd/C | 420 mg | [Pd] | Pd
product | Trans-(3-Hydroxymethyl-cyclobutyl)-acetic acid methyl ester | COC(C[C@@H]1C[C@H](C1)CO)=O | C8H14O3
